US08003806B2
3-(6-{[3-(1H-Indol-3-yl)propanoyl]amino}-1H-benzimidazol-1-yl)-3-phenylpropanoic acid
Using a similar procedure to that described in Preparation 21, the title compound (25 mg) was prepared from ethyl 3-(6-amino-1H-benzimidazol-1-yl)-3-phenylpropanoate and 3-indolepropionic acid. Hydrolysis of the intermediate ethyl 3-(6-{[3-(1H-indol-3-yl)propanoyl]amino}-1H-benzimidazol-1-yl)-3-phenylpropanoate in this case was carried out using an aqueous solution of sodium hydroxide (2N), followed by RP-HPLC purification of the concentrated residue. [LCMS (Method A, Mobile Phase I) RT=4.29 min, MH+ 453].

reactant | ethyl 3-(6-amino-1H-benzimidazol-1-yl)-3-phenylpropanoate | NC=1C=CC2=C(N(C=N2)C(CC(=O)OCC)C2=CC=CC=C2)C1 | C18H19N3O2
reactant | 3-indolepropionic acid | N1C=C(C2=CC=CC=C12)CCC(=O)O | C11H11NO2
reactant | ethyl 3-(6-{[3-(1H-indol-3-yl)propanoyl]amino}-1H-benzimidazol-1-yl)-3-phenylpropanoate | N1C=C(C2=CC=CC=C12)CCC(=O)NC=1C=CC2=C(N(C=N2)C(CC(=O)OCC)C2=CC=CC=C2)C1 | C29H28N4O3
reactant | sodium hydroxide | 2N | [OH-].[Na+]
product | 3-(6-{[3-(1H-Indol-3-yl)propanoyl]amino}-1H-benzimidazol-1-yl)-3-phenylpropanoic acid | 25 mg | N1C=C(C2=CC=CC=C12)CCC(=O)NC=1C=CC2=C(N(C=N2)C(CC(=O)O)C2=CC=CC=C2)C1 | C27H24N4O3
